US04296114
(b) 1-(4-Chlorophenyl)-1,2-dihydroquinoxalin-2-one
A solution of 1-(4-chlorophenyl)-1,2,3,4-tetrahydroquinoxalin-2-one (8.2 g) in dichloromethane (50 ml) was stirred with manganese dioxide (10.0 g) for 4 hours. The mixture was filtered, evaporated, and the residue was recrystallised from ethanol giving the title compound mp 169°-171° C.

reactant | 1-(4-chlorophenyl)-1,2,3,4-tetrahydroquinoxalin-2-one | 8.2 g | ClC1=CC=C(C=C1)N1C(CNC2=CC=CC=C12)=O | C14H11ClN2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 10.0 g | [O-2].[O-2].[Mn+4]
product | 1-(4-Chlorophenyl)-1,2-dihydroquinoxalin-2-one | ClC1=CC=C(C=C1)N1C(C=NC2=CC=CC=C12)=O | C14H9ClN2O
